US05719148
A. 8-CHLORO-11-(1-ETHOXYCARBONYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE N-OXIDE
8-chloro-11-(1-ethoxycarbonyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine (5 g, 13.06 mmol) was dissolved in CH2 Cl2 at -10° C. 3-Chlorobenzoic acid(4.9 g, 15,67 mmol) was then added and the reaction mixture stirred for 95 minutes. The reaction mixture was taken up in CH2Cl2 and extracted with sodium bisulfite, 10% NaOH. The crude reaction product was purified on silica gel eluting first with 1% and then with 2% MeOH in CH2Cl2 to give the title compound (2.7 g, MH+ 399).

reactant | 8-chloro-11-(1-ethoxycarbonyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 13.06 mmol, 5 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(=O)OCC)C1 | C22H23ClN2O2
reactant | 3-Chlorobenzoic acid | 15,67 mmol, 4.9 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | Cl2 | ClCl | Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-CHLORO-11-(1-ETHOXYCARBONYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE N-OXIDE | 2.7 g | ClC=1C=CC2=C(CCC=3C(=[N+](C=CC3)[O-])C2=C2CCN(CC2)C(=O)OCC)C1 | C22H23ClN2O3
